US07691850B2
c) (±)-phenylmethyl 3-[({[(1,1-dimethylethyl)oxy]carbonyl}amino)methyl]-3-hydroxy-1-pyrrolidinecarboxylate
To a stirred solution of phenylmethyl 3-(aminomethyl)-3-hydroxy-1-pyrrolidinecarboxylate (0.5 g, 2.33 mmole) at RT in EtOH (50 mL) was added Boc anhydride (1.09 g, 5.0 mmole). After 24 h, the reaction contents were concentrated under vacuum and purified on silica (hexanes/EtOAc, 1:1) to give the title compound (0.81 g, 99%) as yellow oil: LC-MS (ES) m/e 351 (M+H)+.

reactant | phenylmethyl 3-(aminomethyl)-3-hydroxy-1-pyrrolidinecarboxylate | 2.33 mmole, 0.5 g | NCC1(CN(CC1)C(=O)OCC1=CC=CC=C1)O | C13H18N2O3
reactant | Boc anhydride | 5.0 mmole, 1.09 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | EtOH | 50 mL | CCO | C2H6O
product | (±)-phenylmethyl 3-[({[(1,1-dimethylethyl)oxy]carbonyl}amino)methyl]-3-hydroxy-1-pyrrolidinecarboxylate | 0.81 g, 99% | CC(C)(C)OC(=O)NCC1(CN(CC1)C(=O)OCC1=CC=CC=C1)O | C18H26N2O5
